US04831055
4-[2-(4-Chlorobenzamido)ethoxy]benzoic acid
Ten grams of methyl 4-[2-(4-chlorobenzamido)ethoxy]benzoate was dissolved in 100 ml of hot ethanol. A solution of 2.4 g of sodium hydroxide in 20 ml of water was added to the above ethanolic solution and the mixture was heated to reflux for 2 hours. The reaction solution was concentrated in vacuo, 100 ml of water was added to the residue, the mixture was neutralized with 10% hydrochloric acid, crystals separated out were collected by filtration, washed with water, dried and recrystallised from ethanol to give 8.4 g (yield: 87%) of crystalline product. M.p. 219°-220° C.

reactant | methyl 4-[2-(4-chlorobenzamido)ethoxy]benzoate | Ten grams | ClC1=CC=C(C(=O)NCCOC2=CC=C(C(=O)OC)C=C2)C=C1 | C17H16ClNO4
reactant | sodium hydroxide | 2.4 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 4-[2-(4-Chlorobenzamido)ethoxy]benzoic acid | 8.4 g, yield: 87% | ClC1=CC=C(C(=O)NCCOC2=CC=C(C(=O)O)C=C2)C=C1 | C16H14ClNO4
